US07456283B2
Preparation of 4-dichloromethyl-N-[4-methyl-3-(4-pyridin-3-yl-pyrimidin-2-ylamino)-phenyl]-benzamide
To a suspension of 4-methyl-N*3*-(4-pyridin-3-yl-pyrimidin-2-yl)-benzene-1,3-diamine (2.00 g mg, 7.21 mmol) in toluene (22 ml) at 45° C. under an atmosphere of argon is added sequentially 4-dichloromethyl-benzoic acid methyl ester (1.90 g, 8.67 mmol) and AlMe3 (2 M in toluene, 12.6 ml, 25.2 mmol). The resulting brown solution is stirred at 45° C. for a period of 3.5 hrs. The reaction mixture is then cooled to 0° C. and quenched by slow addition of a saturated aqueous solution of Rochelle salt (70 ml) which causes the precipitation of the crude product. t-Butyl methyl ether (150 ml) and methylene chloride (100 ml) are added sequentially to the suspension which are then washed with aqueous saturated NaHCO3 (100 ml) and aqueous saturated NaCl (100 ml). The aqueous phases are back-extracted with t-butyl methyl ether (100 ml). The crude product, which is contained in the combined organic phases, is filtered off with suction, washed with t-butyl methyl ether and dried in vacuo. Yield: 3.35 g of the title compound, 84% of theory, as beige crystals, (HPLC: 91% area).

reactant | 4-methyl-N*3*-(4-pyridin-3-yl-pyrimidin-2-yl)-benzene-1,3-diamine | 7.21 mmol, 2.00 g | CC1=C(C=C(C=C1)N)NC1=NC=CC(=N1)C=1C=NC=CC1 | C16H15N5
reactant | 4-dichloromethyl-benzoic acid methyl ester | 8.67 mmol, 1.90 g | COC(C1=CC=C(C=C1)C(Cl)Cl)=O | C9H8Cl2O2
reactant | AlMe3 | 25.2 mmol, 2 M, 12.6 ml | C[Al](C)C
solvent | toluene | 22 ml | C1(=CC=CC=C1)C | C7H8
product | 4-dichloromethyl-N-[4-methyl-3-(4-pyridin-3-yl-pyrimidin-2-ylamino)-phenyl]-benzamide | ClC(C1=CC=C(C(=O)NC2=CC(=C(C=C2)C)NC2=NC=CC(=N2)C=2C=NC=CC2)C=C1)Cl | C24H19Cl2N5O
